US04064261
s-Triazolo(3,4-b)benzothiazol-3-ol
2-Hydrazinobenzothiazole (100 grams) and urea (100 grams) were fused on an oil bath at about 180° C. for about an hour, by which time the molten material had solidified and evolution of ammonia had ceased. The solid thus obtained, the desired s-triazolo(3,4-b)benzothiazol-3-ol, was recrystallized twice from methanol, m.p., 235° C.

reactant | 2-Hydrazinobenzothiazole | 100 grams | N(N)C=1SC2=C(N1)C=CC=C2 | C7H7N3S
reactant | urea | 100 grams | NC(=O)N | CH4N2O
reactant | ammonia | N | H3N
product | s-Triazolo(3,4-b)benzothiazol-3-ol | N=1N=C(N2C1SC1=C2C=CC=C1)O | C8H5N3OS
